US08791134B2
Methyl 4-nitrosotetrahydro-2H-pyran-4-yl succinate was prepared from tetrahydro-pyran-4-one oxime and bis(methyl succinate) iodobenzene (synthesized from iodobenzene diacetate and methyl succinic acid) using conditions of General Method 4. 1H NMR (250 MHz, CHLOROFORM-d) δ 3.94-4.12 (2H, m), 3.59-3.80 (5H, m), 2.79-2.94 (2H, m), 2.62-2.75 (2H, m), 2.09-2.30 (2H, m), 1.73-1.90 (2H, m).

reactant | tetrahydro-pyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | bis(methyl succinate) iodobenzene | IC1=CC=CC=C1.CC(C(=O)O)CC(=O)O.CC(C(=O)O)CC(=O)O
product | Methyl 4-nitrosotetrahydro-2H-pyran-4-yl succinate | C(CCC(=O)OC1(CCOCC1)N=O)(=O)OC | C10H15NO6
